US06319702B1
To a 100 mL 3-necked flask equipped with a magnetic stirrer and a nitrogen inlet were added 2.58 g of methyl 4-((tert-butyldimethylsilyl)oxy)-3-cyclopentylbenzoate and 15 mL of anhydrous toluene. The solution was cooled in an ice water bath and was treated with 19.3 mL of 1M diisobutylaluninum hydride in toluene (Aldrich). The solution was stirred at 0° C. for 30 min and was allowed to warm to RT. After 2 h at RT the solution was poured into 130 mL of saturated aqueous potassium sodium tartrate and the resulting mixture was stirred for 20 min. The mixture was then extracted with ethyl ether (3×70 mL). The combined ether extracts were washed with water (3×70 mL), dried over anhydrous MgSO4, and concentrated to give a cloudy oil. The crude product was purified by flash chromatography on silica gel (8:2 hexane:EtOAc) to afford 1.94 g (82%) of 4-((tert-butyldimethylsilyl)oxy)-3-cyclopentylbenzyl alcohol as a clear liquid.

reactant | methyl 4-((tert-butyldimethylsilyl)oxy)-3-cyclopentylbenzoate | 2.58 g | [Si](C)(C)(C(C)(C)C)OC1=C(C=C(C(=O)OC)C=C1)C1CCCC1 | C19H30O3Si
reactant | hydride | 1M, 19.3 mL | [H-]
reactant | potassium sodium tartrate | 130 mL | C(=O)([O-])C(O)C(O)C(=O)[O-].[Na+].[K+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | 4-((tert-butyldimethylsilyl)oxy)-3-cyclopentylbenzyl alcohol | 1.94 g, 82% | [Si](C)(C)(C(C)(C)C)OC1=C(C=C(CO)C=C1)C1CCCC1 | C18H30O2Si
